US07528173B2
To a solution of 1-(benzyloxycarbonylamino)-2-methylpropylphosphonous acid (5.8 g, 21.4 mmol) in 15 mL ethanol and 200 mL CH2Cl2 was added EDC (5.0 g, 26 mmol). The resulting reaction mixture was stirred at ambient temperature for 30 minutes. The mixture was concentrated in vacuo, and the residue was taken up into 200 mL ethyl acetate, washed with water and brine. The solvent was evaporated in vacuo to afford 1-(benzyloxycarbonylamino)-2-methylpropylphosphonous acid ethyl ester (6.2 g, 20.7 mmol, 96.8%) as white solid which was used without further purification.

reactant | 1-(benzyloxycarbonylamino)-2-methylpropylphosphonous acid | 21.4 mmol, 5.8 g | C(C1=CC=CC=C1)OC(=O)NC(C(C)C)P(O)O | C12H18NO4P
reactant | EDC | 26 mmol, 5.0 g
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(benzyloxycarbonylamino)-2-methylpropylphosphonous acid ethyl ester | 20.7 mmol, 6.2 g, 96.8% | C(C)OP(O)C(C(C)C)NC(=O)OCC1=CC=CC=C1 | C14H22NO4P
